US04966901
Methyl 1-(2-acetylaminoethyl)-2,4-dimethylpyrrole-3-carboxylate
71.5 g (0.70 mol) of (2-acetylaminoethyl)-amine are slowly added to 40.7 g (0.35 mol) of methyl acetoacetate. 32.4 g (0.35 mol) of chloroacetone are then added dropwise and the mixture is heated under reflux for 20 hours. After cooling, water is added, the mixture is extracted with methylene chloride and the extract is concentrated. The residue is recrystallized from ethyl acetate (filtered over active charcoal and silica gel).

reactant | (2-acetylaminoethyl)-amine | 0.70 mol, 71.5 g | C(C)(=O)NCCN | C4H10N2O
reactant | methyl acetoacetate | 0.35 mol, 40.7 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | chloroacetone | 0.35 mol, 32.4 g | ClCC(C)=O | C3H5ClO
solvent | water | O | H2O
product | Methyl 1-(2-acetylaminoethyl)-2,4-dimethylpyrrole-3-carboxylate | C(C)(=O)NCCN1C(=C(C(=C1)C)C(=O)OC)C | C12H18N2O3
